US04839449
5-Glycidoxymethyl furfuraldehyde dimethyl acetal was prepared by adding a total of 6.0 g (0.035 mole) of 5-hydroxy-methyl furfuraldehyde dimethyl acetal (HMFA) to 1.54 g sodium hydroxide (0.038 mole) in a 100 ml round bottom flask equipped with magnetic stir bar, reflux condenser, and nitrogen inlet. After stirring for 30 min., 3.89 g (0.042 mole) of epichlorohydrin in 50 ml. of methyl ethyl ketone was added quickly, and the reaction mixture was allowed to reflux overnight under an inert (nitrogen) atmosphere. The mixture was then cooled, filtered, and the solvent removed under vacuum. The resulting oil was mixed with 250 ml of toluene and the toluene was distilled off at atmospheric pressure to remove any residual epichlorohydrin. The sample was freed of toluene by subjecting it to high vacuum overnight.

reactant | 5-hydroxy-methyl furfuraldehyde dimethyl acetal | 0.035 mole, 6.0 g | COC(C1=C(C=C(O1)O)C)OC | C8H12O4
reactant | sodium hydroxide | 0.038 mole, 1.54 g | [OH-].[Na+]
reactant | epichlorohydrin | 0.042 mole, 3.89 g | C(Cl)C1CO1 | C3H5ClO
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 5-Glycidoxymethyl furfuraldehyde dimethyl acetal | COC(C1=CC=C(O1)COCC1CO1)OC | C11H16O5
